* File: NAND3.pex.sp.pex
* Created: Sun May 11 15:38:35 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND3%OUT 1 3 8 12 16 17 20 24 28 30 34 38 39 40
c75 28 0 5.40541e-20
c76 20 0 2.03605e-19
c77 12 0 9.67636e-20
c78 8 0 0.00595645f
r79 40 44 0.148639
r80 34 36 0.388606
r81 32 34 0.746123
r82 31 39 0.0371092
r83 30 32 0.0489649
r84 30 31 0.403179
r85 28 44 1.7
r86 26 39 0.00964403
r87 26 28 0.382777
r88 25 38 0.0371092
r89 24 39 0.0371092
r90 24 25 0.813158
r91 20 22 0.388606
r92 18 38 0.00964403
r93 18 20 0.747095
r94 16 38 0.0371092
r95 16 17 0.274939
r96 14 15 0.347185
r97 12 14 1.28143
r98 10 17 0.0489649
r99 10 15 0.263281
r100 8 12 10
r101 3 36 15
r102 3 34 10
r103 1 22 15
r104 1 20 10
.ends

.subckt PM_NAND3%VSS 2 11 13 14 19
c24 19 0 0.0265978f
c25 11 0 0.00165639f
c26 2 0 0.00238704f
r27 17 24 0.0188364
r28 17 19 1.15222
r29 14 24 0.0271748
r30 13 14 0.967942
r31 11 19 10
r32 2 24 30
.ends

.subckt PM_NAND3%VDD 2 10 11 17 22 26 33 40
c53 22 0 0.0249456f
r54 33 36 0.388606
r55 31 40 0.016797
r56 31 36 1.28143
r57 27 39 0.0291575
r58 27 29 0.331287
r59 26 40 0.0291575
r60 22 25 0.388606
r61 20 39 0.016797
r62 20 25 1.28434
r63 17 26 0.466327
r64 17 29 0.430381
r65 11 36 15
r66 11 33 10
r67 10 25 15
r68 10 22 10
r69 2 29 30
.ends

.subckt PM_NAND3%A 1 2 6 14 15 18 23
c33 18 0 5.21571e-20
c34 15 0 2.4664e-19
c35 14 0 2.52132e-19
c36 6 0 1.4412e-19
c37 2 0 1.11869e-19
r38 23 27 0.156417
r39 18 27 1.7
r40 18 21 0.00502177
r41 14 21 25
r42 14 16 7.64916
r43 14 15 7.72002
r44 6 16 81.3323
r45 4 15 107.304
r46 2 6 46.5732
r47 1 4 27.3386
.ends

.subckt PM_NAND3%B 1 2 6 14 15 18 23
c34 18 0 2.68146e-19
c35 14 0 3.70639e-19
c36 6 0 1.12169e-19
c37 2 0 9.17365e-20
r38 23 27 0.150368
r39 18 27 1.7
r40 18 21 0.00485757
r41 14 21 25
r42 14 16 7.63718
r43 14 15 7.71649
r44 6 16 82.0157
r45 4 15 106.62
r46 2 6 46.5732
r47 1 4 27.3386
.ends

.subckt PM_NAND3%C 1 2 6 14 15 18 23
c31 18 0 1.09955e-19
c32 14 0 3.26293e-19
r33 23 27 0.158145
r34 18 27 1.7
r35 18 21 0.00485757
r36 14 21 25
r37 14 16 7.63593
r38 14 15 7.71425
r39 6 16 81.137
r40 4 15 107.499
r41 2 6 46.5732
r42 1 4 27.3386
.ends

